US09388180B2
3.6 2,5,6-trimethyl-8-propyl-3-thia-1,4,7,8a-tetraaza-as-indacene
N-(2-methyl-4-(4-methyl-2-propyl-1H-imidazol-1-yl)thiazol-5-yl)acetamide (60 mg, 0.2 mmol) was suspended in phosphorus oxychloride (5 mL) and P2O5 (280 mg, 2 mmol) was added quickly. The resulting mixture was heated at 130° C. in a sealed tube overnight. After POCl3 was evaporated, the residue was quenched with ice water very carefully. The mixture was neutralized with saturated Na2CO3 solution and extracted with ethyl acetate (3×30 mL). The organic layer was dried over Na2SO4, concentrated and purified by prep-HPLC to give 4 mg of the title compound.

reactant | N-(2-methyl-4-(4-methyl-2-propyl-1H-imidazol-1-yl)thiazol-5-yl)acetamide | 0.2 mmol, 60 mg | CC=1SC(=C(N1)N1C(=NC(=C1)C)CCC)NC(C)=O | C13H18N4OS
reactant | P2O5 | 2 mmol, 280 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,5,6-trimethyl-8-propyl-3-thia-1,4,7,8a-tetraaza-as-indacene | 4 mg | CC1=NC=2N3C(=NC(=C3C(=NC2S1)C)C)CCC | C13H16N4S
